US04517195
2-(2-Fluorobenzoyl)-1-phthalimidopyrrole
To a mixture of N-phthalimidopyrrole (10 g, 47 mmole) and fused zinc chloride (10 g, 73 mmole) in 80 ml dichloroethane was added o-fluorobenzoyl chloride (7.5 g, 47 mmole). The reaction mixture was stirred at ambient temperature for twenty hours and at 80° for one hour. Thereafter, it was cooled, poured into water and extracted with dichloromethane. The organic extract was washed with water and with saturated sodium chloride solution, and dried over magnesium sulfate. The solution was filtered and evaporated to an oil which yielded a solid upon trituration with ethanol (yield 11 g, m.p. 180°-190°). This material was purified by column chromatography (silica gel, dichloromethane) to give 3 g solid. This material was recrystallized from isopropanol to give 2.6 g (17%) crystals, m.p. 202°-203°.

reactant | N-phthalimidopyrrole | 47 mmole, 10 g | C1(C=2C(C(N1N1C=CC=C1)=O)=CC=CC2)=O | C12H8N2O2
reactant | o-fluorobenzoyl chloride | 47 mmole, 7.5 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | water | O | H2O
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
product | 2-(2-Fluorobenzoyl)-1-phthalimidopyrrole | 3 g | FC1=C(C(=O)C=2N(C=CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C19H11FN2O3
